US20010018099A1
A solution of (1-bromo-4-[3-(perfluoro-n-octyl)phenoxy]but-2-ene (12.9 g) in tetrahydrofuran (20 mL) is added to a solution of 40 wt % methyl amine (20 mL), ethanol (20 mL) and tetrahydrofuran (20 mL) at 40° C. The mixture is stirred at ambient temperature for 2 hr. and extracted in the normal fashion. The resulting oil is Kugelrohr distilled to give N-methyl-4-[3-(perfluoro-n-octyl)phenoxy]but-2-enamine.

reactant | 1-bromo-4-[3-(perfluoro-n-octyl)phenoxy]but-2-ene | 12.9 g | BrCC=CCOC1=CC(=CC=C1)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C18H10BrF17O
reactant | methyl amine | 20 mL | CN | CH5N
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-methyl-4-[3-(perfluoro-n-octyl)phenoxy]but-2-enamine | CNCC=CCOC1=CC(=CC=C1)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C19H14F17NO
